US07230099B2
Step D: Preparation of 7-(4-bromo-2-chlorophenylamino)-8-chloro-3-methyl-imidazo[1,2-a]pyridine-6-carboxylic acid.
4-(4-Bromo-2-chlorophenylamino)-5-chloro-6-(2-oxopropylamino)-nicotinic acid tert-butyl ester (0.075 g, 0.15 mmol) was dissolved into concentrated H2SO4 (0.50 mL). After ten minutes, ice and water were and the mixture was stirred for ten minutes. The mixture was diluted with EtOAc, neutralized with 1 M NaOH, washed with brine, dried over Na2SO4 and concentrated to provide the desired product as an off-white solid. MS APCI (+) m/z 416, 418 (M+, Cl, Br pattern) detected.

reactant | 4-(4-Bromo-2-chlorophenylamino)-5-chloro-6-(2-oxopropylamino)-nicotinic acid tert-butyl ester | 0.15 mmol, 0.075 g | C(C)(C)(C)OC(C1=CN=C(C(=C1NC1=C(C=C(C=C1)Br)Cl)Cl)NCC(C)=O)=O | C19H20BrCl2N3O3
reactant | H2SO4 | 0.50 mL | OS(=O)(=O)O | H2O4S
reactant | water | O | H2O
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-(4-bromo-2-chlorophenylamino)-8-chloro-3-methyl-imidazo[1,2-a]pyridine-6-carboxylic acid | BrC1=CC(=C(C=C1)NC1=C(C=2N(C=C1C(=O)O)C(=CN2)C)Cl)Cl | C15H10BrCl2N3O2
